US06790854B2
Ethyl 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionate (275 mg) was dissolved in a mixed solution of methanol (5.6 ml) and water (2.8 ml), added with 1 N aqueous sodium hydroxide (1.4 ml) and stirred at 50° C. for 1 hour. The solvent was evaporated under reduced pressure and added with 1 N aqueous hydrochloric acid (5 ml), and the reaction mixture was extracted twice with dichloromethane (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionic acid.

reactant | Ethyl 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionate | 275 mg | C(C)N(C(=O)C1=CC=C(C=C1)C(CC(=O)OCC)C1=CC(=CC=C1)OC)CC | C23H29NO4
reactant | sodium hydroxide | 1 N, 1.4 ml | [OH-].[Na+]
solvent | methanol | 5.6 ml | CO | CH4O
solvent | water | 2.8 ml | O | H2O
product | 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionic acid | C(C)N(C(=O)C1=CC=C(C=C1)C(CC(=O)O)C1=CC(=CC=C1)OC)CC | C21H25NO4
